US08212045B2
A flask was charged with 1,3,5-trimethyl-1H-pyrazol-4-ol (10.46 g, 82.89 mmol), and added DMF:dioxane (9:1) (700 mL). The reaction mixture was cooled to 0° C. and 60% sodium hydride (3.315 g, 82.89 mmol) was added portionwise and the reaction was stirred for 15 minutes. 5-Bromo-3-nitropicolinonitrile (18 g, 78.95 mmol) was added and the reaction was stirred at ambient temperature for 3 hours. The reaction was poured slowly into 600 mL water and stirred for 10 minutes. The resultant solids were filtered and dried to afford 5-bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinonitrile (23.70 g, 97.74% yield) as very lightly tan (white) solid.

reactant | 1,3,5-trimethyl-1H-pyrazol-4-ol | 82.89 mmol, 10.46 g | CN1N=C(C(=C1C)O)C | C6H10N2O
reactant | DMF dioxane | 700 mL | CN(C)C=O.O1CCOCC1
reactant | sodium hydride | 82.89 mmol, 3.315 g | [H-].[Na+]
reactant | 5-Bromo-3-nitropicolinonitrile | 78.95 mmol, 18 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
solvent | water | 600 mL | O | H2O
product | 5-bromo-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)picolinonitrile | 23.70 g, 97.74% yield | BrC=1C=C(C(=NC1)C#N)OC=1C(=NN(C1C)C)C | C12H11BrN4O
